US07994171B2
4-methyloxazole-5-carboxamide.
A mixture of ethyl 4-methyloxazole-5-carboxylate (7.8 g, 50 mmoles) and ammonium hydroxide in a seal tube was stirred at rt for 12 hours. After completion of the reaction, solid was filtered and washed with water. The aqueous was extracted with ethyl acetate. The organic extract was dried and concentrated and combined with the filtered solid. Yield: 4.1 g (47%) 1H NMR (400 MHz, CDCl3): δ 2.38 (s, 3H), 7.92 (s, 1H). LCMS: (ES+) m/z=126.7 (M)+

reactant | ethyl 4-methyloxazole-5-carboxylate | 50 mmoles, 7.8 g | CC=1N=COC1C(=O)OCC | C7H9NO3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-methyloxazole-5-carboxamide | CC=1N=COC1C(=O)N | C5H6N2O2
